US04207324
In 100 ml of ethanol was dissolved 2 g of 1-(p-nitrobenzyl)-2-phenyl-4-chloroimidazole-5-acetic acid, and following addition of 300 mg of 10% palladium-on-carbon, the solution was shaken in hydrogen streams for 2 hours. The catalyst was filtered off and the filtrate was concentrated to dryness under reduced pressure and recrystallized from ethanol-hexane. By the above procedure was obtained 1.4 g of 1-(p-aminobenzyl)-2-phenyl-4-chloroimidazole-5-acetic acid as colorless needles, m.p. 141°-145° C. (decomp.)

reactant | 1-(p-nitrobenzyl)-2-phenyl-4-chloroimidazole-5-acetic acid | 2 g | [N+](=O)([O-])C1=CC=C(CN2C(=NC(=C2CC(=O)O)Cl)C2=CC=CC=C2)C=C1 | C18H14ClN3O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | 300 mg | [Pd] | Pd
product | 1-(p-aminobenzyl)-2-phenyl-4-chloroimidazole-5-acetic acid | 1.4 g | NC1=CC=C(CN2C(=NC(=C2CC(=O)O)Cl)C2=CC=CC=C2)C=C1 | C18H16ClN3O2
